US07176224B2
A mixture of 2-(4-cyclohexylphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol), toluene-4-sulfonic acid 2-[5-methyl-2-(3-thiophen-2-ylphenyl)oxazol-4-yl]ethyl ester (0.030 mmol) (see Ex. 5, Part B) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 2-(4-cyclohexyl-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid. 1H NMR (400 MHz, CDCl3) δ 8.21 (s, 1H), 7.88 (d, 1H, J=7.82 Hz), 7.64 (d, 1H, J=7.82 Hz), 7.43 (d, 1H, J=7.82 Hz), 7.41 (dd, 1H, J=3.52 Hz, 1.17 Hz), 7.31 (dd, 1H, J=3.91 Hz, 1.17 Hz), 7.19 (d, 2H, J=8.60 Hz), 7.10–7.06 (m, 3H), 6.84 (d, 2H, J=7.04 Hz), 6.82 (d, 2H, J=8.21 Hz), 4.23 (t, 2H, J=6.65 Hz), 3.22 (d, 1H, J=14.08 Hz), 3.13 (d, 1H, J=14.08 Hz), 2.99 (t, 2H, J=6.65 Hz), 2.39 (s, 3H), 1.81 (d, 5H, J=8.60 Hz), 1.40 (s, 3H), 1.38–1.32 (m, 5H). MS (ES+) m/z mass calcd C38H40NO5S 622.26, found 622.3.

reactant | 2-(4-cyclohexylphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)C1CCCCC1)=O | C24H30O4
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(3-thiophen-2-ylphenyl)oxazol-4-yl]ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC(=CC=C1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H21NO4S2
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-(4-cyclohexyl-phenoxy)-2-methyl-3-(4-{2-[5-methyl-2-(3-thiophen-2-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | C1(CCCCC1)C1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2=CC(=CC=C2)C=2SC=CC2)C)C=C1 | C38H39NO5S
